US06340759B1
(106-1) 4-Methoxyphenethyl bromide
4-Methoxyphenethyl alcohol (50 g) and triphenylphosphine (103 g) were dissolved in methylene chloride (600 ml), followed by the addition of N-bromosuccinimide (70 g) in small portions under ice-cooling, and the resulting mixture was stirred at room temperature for 30 min. The reaction mixture was evaporated, and to the resulting residue was added hexane. The insoluble matters were filtered off, while the resulting filtrate was evaporated, to give the title compound as a colorless oil (50.32 g, yield; 71%).

reactant | 4-Methoxyphenethyl alcohol | 50 g | COC1=CC=C(CCO)C=C1 | C9H12O2
reactant | triphenylphosphine | 103 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 70 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | 4-Methoxyphenethyl bromide | 50.32 g, yield; 71% | COC1=CC=C(CCBr)C=C1 | C9H11BrO
